US04052455
Reaction of 3-nitrobenzamidine with 4-nitrostyrylsulfonyl chloride according to the above procedure provides N-(4-NITROSTYRYLSULFONYL)-3-NITROBENZAMIDINE, m.p. 230°-232° C.

reactant | 3-nitrobenzamidine | [N+](=O)([O-])C=1C=C(C(=N)N)C=CC1 | C7H7N3O2
reactant | 4-nitrostyrylsulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=CS(=O)(=O)Cl)C=C1 | C8H6ClNO4S
product | N-(4-NITROSTYRYLSULFONYL)-3-NITROBENZAMIDINE | [N+](=O)([O-])C1=CC=C(C=CS(=O)(=O)NC(C2=CC(=CC=C2)[N+](=O)[O-])=N)C=C1 | C15H12N4O6S
